US08110687B2
To a solution of 7-({1-[(4-methoxybenzyl)(methyl)amino]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid (581 mg, 1.39 mmol) and 3-tert-butylaniline (228 mg, 1.53 mmol) in DCM (13 mL), was added DMAP (186 mg, 1.53 mmol) and EDCI (293 mg, 1.53 mmol). The reaction mixture was allowed to stir for 18 hr, and then diluted with EtOAc and washed with water and brine. The organic solution was dried over Na2SO4 and concentrated. The residue was purified by column to give N-(3-tert-butylphenyl)-7-({2-[(4-methoxybenzyl)(methyl)amino]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalene-2-carboxamide (I-179) as a white solid (491 mg, 64.3%). 1H NMR (400 MHz, d6-DMSO; HCl salt) δ: 9.98 (s, 1H), 7.97 (d, 1H), 7.64 (dd, 1H), 7.49 (d, 1H), 7.21 (dd, 1H), 7.20 (d, 1H), 7.12 (d, 2H), 7.07 (ddd, 1H), 6.96 (d, 1H), 6.87-6.92 (m, 3H), 6.37-6.49 (m, 2H), 4.69 (s, 2H), 3.72 (s, 3H), 3.17 (s, 3H), 2.72-2.99 (m, 5H), 2.03-2.99 (m, 1H), 1.73-1.84 (m, 1H), and 1.26 (s, 9H). LCMS: (FA) ES+ 550.3, ES− 448.4.

reactant | 7-({1-[(4-methoxybenzyl)(methyl)amino]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid | 1.39 mmol, 581 mg | COC1=CC=C(CN(N2CC=C(C=C2)OC2=CC=C3CCC(CC3=C2)C(=O)O)C)C=C1 | C25H28N2O4
reactant | 3-tert-butylaniline | 1.53 mmol, 228 mg | C(C)(C)(C)C=1C=C(N)C=CC1 | C10H15N
reactant | EDCI | 1.53 mmol, 293 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 13 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.53 mmol, 186 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(3-tert-butylphenyl)-7-({2-[(4-methoxybenzyl)(methyl)amino]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalene-2-carboxamide | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)N(C)CC1=CC=C(C=C1)OC | C35H39N3O3
